US08629138B2
To a solution of N′-acetyl-3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanehydrazide (0.1 g, 0.21 mmol) in THF (2 mL) was added Burgess Reagent (75 mg, 0.315 mmol). The sealed vial was irradiated in the microwave at 100° C. for 15 min. The mixture was extracted with EtOAc (3×30 mL). The combined organic layer was washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by preparative TLC to afford (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)-6-phenyl-1,3-oxazinan-2-one (58 mg, yield: 59%). 1H NMR (CDCl3): δ1.49-1.51 (m, 3H), 2.23-2.26 (m, 2H), 2.30-2.33 (m, 2H), 2.42 (s, 3H), 2.43-2.45 (m, 1H), 2.49-2.54 (m, 1H), 2.87-2.91 (m, 1H), 3.06-3.09 (m, 1H), 5.61-5.63 (m, 1H), 6.76-6.78 (d, 2H), 7.20-7.22 (m, 2H), 7.26-7.33 (m, 2H), 7.35-7.37 (m, 3H).

reactant | N′-acetyl-3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanehydrazide | 0.21 mmol, 0.1 g | C(C)(=O)NNC(CC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=CC=C1)=O | C23H26BrN3O4
reactant | Burgess Reagent | 0.315 mmol, 75 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 58 mg, yield: 59% | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CCC=1OC(=NN1)C)=O | C23H24BrN3O3
